US07902226B2
Ethyl 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylate
Ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-5-nitro-4-oxoquinoline-3-carboxylate (3.71 g, 10.1 mmol) was dissolved in acetonitrile (50 ml), and after adding a 5% palladium carbon catalyst (water content: 50%, 1.5 g) thereto, it was stirred at room temperature for 20 hours under a hydrogen atmosphere at atmospheric pressure. After removing the catalyst by filtering (methanol washing), the filtrate was concentrated under a reduced pressure, the residue obtained was applied to a silica gel chromatography, and 2.68 g (79%) of the title compound was obtained as a yellow amorphous substance from a chloroform:methanol=30:1 eluate.

reactant | Ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-5-nitro-4-oxoquinoline-3-carboxylate | 10.1 mmol, 3.71 g | FC1=CC(=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)OCC)=O)[N+](=O)[O-] | C16H14F2N2O6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | Ethyl 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylate | 2.68 g, 79% | NC1=C2C(C(=CN(C2=C(C(=C1)F)OC)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C16H16F2N2O4
